US09034866B2
Into a 2-L 4-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen was placed 9-bromo-4-iodo-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene (65 g, 162.08 mmol, 1.00 equiv), N,N-dimethylformamide (1.2 L), HMDS (208 g, 1.29 mol, 8.00 equiv), and Pd(PPh3)2C1 (9.1 g, 0.08 equiv). To the above CO (2 atm) was introduced in. The resulting solution was stirred at 60° C. for 2 h. This reaction was repeated for 3 more times. The reaction mixture was cooled to 40° C. and quenched by the addition of 1500 mL of water. The solids were collected by filtration and washed with 3×500 mL of water. The solids were diluted with 2 L of EA and stirred at room temperature for 1 h. The solids were collected by filtration. The filter cake was diluted with 2 L of EA and stirred at 50° C. for 1 h. The solids were collected by filtration and dried to afford 172 g (83%) of 9-bromo-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxamide as a brown solid. LC-MS: 318 [M+1]+1H-NMR (DMSO, 300 MHz, ppm): □ 18.75 (s, 1H), 7.85 (s, 1H), 7.58 (s, 1H), 7.44-4.44 (dd, 1H), 7.23-7.25 (dd, 1H), 7.14 (s, 1H), 4.89-4.95 (m, 1H), 3.67-3.73 (m, 1H), 3.04-3.12 (m, 2H), 1.64-1.68 (m, 2H).

reactant | 9-bromo-4-iodo-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene | 162.08 mmol, 65 g, 1.00 equiv | BrC=1C=C2C3=NC(=CN3C3CC(C2=CC1)C3)I | C13H10BrIN2
reactant | HMDS | 1.29 mol, 208 g, 8.00 equiv | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | N,N-dimethylformamide | 1.2 L | CN(C=O)C | C3H7NO
product | 9-bromo-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxamide | 172 g, 83% | BrC=1C=C2C3=NC(=CN3C3CC(C2=CC1)C3)C(=O)N | C14H12BrN3O
